US07297705B2
Step 5. Preparation of (1H-Pyrrolo[3,2-b]pyridin-3-yl)-acetonitrile
A stirred solution of dimethyl-(1H-pyrrolo[3,2-b]pyridin-3-yl)methylamine (0.828 g, 4.73 mmol) in dry THF (20 mL) under nitrogen is treated with a solution of (CH3O)2SO2 (0.49 mL) in THF, heated at reflux temperature for 0.5 h, cooled in an ice bath, and decanted. The gummy residue is washed with ether, treated with water (15 mL) and NaCN (0.39 g, 6.2 mmol), heated at reflux temperature for 0.75 h, cooled and extracted with 4:1 CH2Cl2:ethanol. The combined extracts are dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed (silica gel, ethyl acetate as eluent) to afford the title compound as a white solid, 0.51 g (68% yield), mp 201-202° C., identified by NMR and mass spectral analyses.

reactant | dimethyl-(1H-pyrrolo[3,2-b]pyridin-3-yl)methylamine | 4.73 mmol, 0.828 g | CN(CC1=CNC=2C1=NC=CC2)C | C10H13N3
reactant | water | 15 mL | O | H2O
reactant | NaCN | 6.2 mmol, 0.39 g | [C-]#N.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1H-Pyrrolo[3,2-b]pyridin-3-yl)-acetonitrile | 68% yield | N1C=C(C2=NC=CC=C21)CC#N | C9H7N3
